US08039463B2
HOBt (3.48 g, 25.8 mmol) and DIPEA (6.94 g, 53.8 mmol) were added to a stirred solution of malonic acid monoethyl ester (2.84 g, 21.5 mmol) in DMF (10 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (4.95 g, 25.8 mmol) followed by piperazine-1-carboxylic acid tert-butyl ester (4 g, 21.5 mmol) were added. The reaction mixture was stirred at room temperature overnight then diluted with water. The product was extracted with ethyl acetate and the ethyl acetate was washed with brine solution, dried over Na2SO4 and concentrated to afford 5.2 g (84%) of 4-(2-ethoxycarbonyl-acetyl)-piperazine-1-carboxylic acid tert-butyl ester. LCMS: 301.17 (M+1)+ 84.5%. 1H NMR: (CDCl3): δ 4.0 (q, 2H), 3.45 (m, 2H), 3.3 (m, 8H), 1.25 (s, 9H), 1.1 (t, 3H).

reactant | HOBt | 25.8 mmol, 3.48 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 53.8 mmol, 6.94 g | CCN(C(C)C)C(C)C | C8H19N
reactant | malonic acid monoethyl ester | 21.5 mmol, 2.84 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | EDCI.HCl | 25.8 mmol, 4.95 g | CCN=C=NCCCN(C)C.Cl
reactant | piperazine-1-carboxylic acid tert-butyl ester | 21.5 mmol, 4 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(2-ethoxycarbonyl-acetyl)-piperazine-1-carboxylic acid tert-butyl ester | 5.2 g, 84% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CC(=O)OCC)=O | C14H24N2O5
